Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Soy / Benadryl / Lyrica
 
Attending: ___.
 
Chief Complaint:
Suicidal Ideation, Feeling Unsafe
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ with history of depression, irritable mood, hx of SI, PTSD 
and chronic neck pain presenting to the ED after calling her on 
call psych physician because she felt unsafe.  Patient called 
her psych provider ___ ___ with reports of people breaking into 
her home and feeling unsafe. At that time, she denied SI or HI 
however it was recommended that she present to the ED for 
voluntary admission. Patient refused admission at that time 
however called on ___ stating that she felt unsafe, sobbing on 
the phone and the on call provider again referred her to the ED. 
 
Per psychiatry note in ED, patient noting that she has had two 
maintainence people in her building sneaking into her apartment, 
waiting for her to leave and then going in. She feels she needs 
to leave ___ as the police are prejudiced against ___ 
Americans. She reports that a month ago a man called her name 
and told her he would slice her neck and she feels this is the 
police conspiring with him because she complained about the 
police.  

Per psychiatry note, Dr. ___ follows patient as an 
outpatient and the concern has been for ongoing for months as 
she has been missing appointments and it is not clear if she has 
been taking her meds. Over the last months she feels patient has 
been paranoid and possibly psychotic. She has not met ___ 
criteria at those times. Dr. ___ that she needs an 
inpatient hospitalization for stabilization.  
 In the ED, initial vitals were: 97.7 94 131/86 20 100%.  
- Labs were significant for normal CBC, chem 7, negative serum 
tox and positive urine methadone.  
- EKG noted HR of 76 with left axis, normal intervals, normal 
Qtc of 406 and poor R wave progression.  
- The patient was given home senna, methadone, duloxetine and 
hydroxyzine.  
- At 1230am, patient noted to be agitated and aggressive towards 
staff, demanding to leave and was given 1mg PO ativan.  

-Patient was seen by psych who felt she met section 12a 
criteria. Recommended risperidone 0.5mg qhs, duloxetine 20mg BID 
and methadone 20mg BID. Patient has refused risperidone.  
Vitals prior to transfer were: 97.7 89 123/80 15 100% RA.  
Upon arrival to the floor, patient states she is upset at her 
psychiatrist and the ED physicians and nurses, and that she is 
being held against her will. She says she is "not crazy", and is 
demanding to leave, as she denies any active SI or HI. She 
refused to elaborate on her initial concern of safety at home. 
Per prior note, she doesn't want to go home as she feels unsafe 
and state the house in unclean. There was a reported verbal 
altercation with ambulance driver and her landlord over the last 
few days. She refused a full physical exam at time of admission. 
 
 
Past Medical History:
PMH: Budd Chiari, Chronic pain
PSH: R-sided Oophorectomy, CSection

 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: Tc 97.9F  BP 136/93  HR 93   RR18   99% O2 sat RA
General: Alert, oriented, agitated woman sitting up in bed
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD, minimal tenderness to 
side of neck   
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, limited exam
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, rest of exam deferred 
Psych: Guarded and Irritable affect. Presently denies SI/HI. 
Denies AH/VH. Paranoid thought content. Speech loud.

Contributory Psychiatry Exam:
Wakefulness/alertness: alert 
Attention (digit span, MOYB): able to complete MOYB
Orientation: oriented to person place and time
Memory:   ___ registration and ___ recall
Fund of knowledge:  knew ___
Calculations:  $1.75=7 quarters
Abstraction: Apples&oranges- both fruit
Speech: Normal tone and rate. At times elevated volume. 

Mental Status:
Appearance:  Age appearing appropriately groomed AAF, in casual 
clothes holding bag
Behavior: Initially yelled and was uncooperative. Refused 
tochange clothes and give up her belongings. After few minutes 
pt was reluctantly cooperative. 
Mood and Affect: "good" affect guarded and labile. at 
timestearful and other times very angry. irritable. 
Thought process / *associations:  circumstantial, disorganized 
at times, perseverative on "prejudice" against her
Thought Content: Paranoid delusions. No SI, HI or AVH
Judgment and Insight:  poor/poor

DISCHARGE PHYSICAL EXAM: 
Vitals: T98.2, HR 89, BP 111/74, O2Sat 100% on RA, RR 20
General: Alert, oriented, irritable but conversational
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
+paranasal sinus tenderness  
Neck: Supple, JVP not elevated, no LAD, minimal tenderness to 
sides of neck   
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, limited exam
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Grossly normal
Psych: Irritable affect. Presently denies SI/HI. Denies AH/VH. 

 
Pertinent Results:
ADMISSION LABS:

___ 12:50AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-POS
___ 12:50AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-TR
___ 12:50AM URINE  RBC-3* WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-3
___ 12:45AM   GLUCOSE-136* UREA N-20 CREAT-1.0 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-30 ANION GAP-10
___ 12:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:45AM   WBC-4.7 RBC-4.28 HGB-12.6 HCT-39.2 MCV-92 
MCH-29.4 MCHC-32.1 RDW-14.4 RDWSD-48.1*
___ 12:45AM   NEUTS-48.3 ___ MONOS-8.5 EOS-2.1 
BASOS-1.3* IM ___ AbsNeut-2.27 AbsLymp-1.86 AbsMono-0.40 
AbsEos-0.10 AbsBaso-0.06
___ 12:45AM   PLT COUNT-206

EKG ___: Sinus rhythm. Borderline left axis deviation. Cannot 
exclude inferior myocardial infarction of indeterminate age. 
Leftward precordial R wave transition point. Compared to the 
previous tracing of ___ there is no significant change. 

IMAGING: N/A

 
Brief Hospital Course:
PRIMARY PRESENTATION

Ms. ___ is a ___ year old woman with history of depression, 
irritable mood, hx of SI, PTSD and chronic neck pain who 
presented to her psychiatrist, feeling unsafe, requiring 
inpatient hospitalization for stabilization and safety, meeting 
Section 12A criteria. Given her psychiatrist's concern as well 
as her disorganization, paranoia and concerns about living in 
the community, she was admitted for inpatient level of care. She 
has denied active suicidal ideation and the need for her 
inpatient hospitalization during the hospital course.

ACTIVE ISSUES:
 
#Psychosis unspecified vs. schizoaffective disorder: Patient has 
a history of depression but presented with psychotic features of 
delusions, paranoia concerning for psychosis related to 
underlying depression vs a new psychotic break. She met ___ criteria based on inability to care for herself and was 
admitted to inpatient care. She has denied any suicidal ideation 
while inpatient. Her risk factors for self harm include active 
psychosis, poor insight, medication and psychiatric followup 
noncompliance. She was continued on risperidone 0.5mg qhs, 
Duloxetine 20mg BID, Lorazepam 1 mg at night as needed and 
mirtazapine nightly, as per psychiatry recommendations. She 
refused many of the medications, but did not require any 
chemical restraints for agitation. She initially required 1:1 
observation, which was subsequently removed as patient was more 
cooperative. She was monitored on the medicine floors, pending 
psychiatry bed placement.

#Headache and Sinus Pain, likely due to nasal congestion vs 
chronic pain: She was started on Pseudoephrine 30mg q6h PRN for 
symptomatic relief.

# Chronic pain: Patient has history of chronic neck pain on 
methadone at home. Patient had similar symptoms inpatient, and 
was managed on home dose methadone 20mg BID with tylenol as 
needed for breakthrough pain

CHRONIC ISSUES:

# Itching:Patient has a history of chronic itching and rash, and 
was continued on home dose Hydroxine 25mg PO q6h as needed.

# Asthma: Patient continued on fluticasone and albuterol as 
needed.

#Postmenopausal Symptoms, on home HRT (Prempro:conj estrogen + 
progestin): Patient's home medication is non-formulary, and 
patient not allowed access to her belongings given ___. 
Per inpatient pharmacy, the best alternative is a conjugated 
estrogen, so patient was started on Premarin daily.

TRANSITIONAL ISSUES
-Coordinate Care outpatient with patient's psychiatrist Dr. ___
- ___ switching the Risperdal, as patient complains of 
palpitations with medication
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
2. Duloxetine 20 mg PO BID 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. HydrOXYzine 25 mg PO Q6H:PRN itching 
5. Lorazepam 1 mg PO QHS:PRN insomnia 
6. Methadone 20 mg PO BID 
7. Mirtazapine 30 mg PO QHS 
8. RISperidone 0.5 mg PO QHS 
9. Prempro (conj estrog-medroxyprogest ace) 0.3-1.5 mg oral 
DAILY 
10. Lactulose 15 mL PO BID 

 
Discharge Medications:
1. Senna 8.6 mg PO BID Constipation 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
3. Duloxetine 20 mg PO BID 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. HydrOXYzine 25 mg PO Q6H:PRN itching 
6. Lorazepam 1 mg PO QHS:PRN insomnia 
7. Methadone 20 mg PO BID 
8. Mirtazapine 30 mg PO QHS 
9. RISperidone 0.5 mg PO QHS 
10. Lactulose 15 mL PO BID 
11. Prempro (conj estrog-medroxyprogest ace) 0.3-1.5 mg oral 
DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
-Depression with Psychotic Features vs Psychosis NOS

Secondary Diagnosis:
-Depression
-PTSD
-Chronic Neck Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
    You were admitted to ___ on ___ due to concern that 
you felt unsafe at home and were experiencing worsening 
depression. Per the psychiatry team, you were continued on your 
home medications while in the hospital. Given your initial 
symptoms and the concern for your worsening mental health, you 
met criteria for ___ hospitalization. You were managed 
with mirtazapine, Risperidone, Duloxetine, and Methadone.

It was a pleasure taking caring of you. We hope you feel better.
Your ___ team
 
Followup Instructions:
___